US08071607B2
Compound 8B. 3-(5-Amino-4-cyanopyrazol-1-yl)benzoic acid methyl ester
Title compound 8A, 3-(5-amino-4-cyanopyrazol-1-yl)benzoic acid (3.2 g, 1.0 eq, 14.04 mmol) was suspended in a toluene/methanol [3:1] solution (70 ml). This was then cooled to 0° C. and trimethylsilyldiazomethane was added drop wise as a 2M solution in diethyl ether (7.7 ml, 1.1 eq, 15.44 mmol). The reaction was allowed to warm to room temperature over 2 hours. A further portion of trimethylsilyidiazomethane (1.54 ml, 0.2 eq, 2.8 mmol) was added. The reaction was stirred at room temperature for a further 45 minutes and solvent was then removed in vacuo to give the title compound as an orange solid (3.4 g, 14.04 mmol, 100%). LCMS: [M+H]+=243, Rt=1.05 min, 100% purity.

reactant | 3-(5-amino-4-cyanopyrazol-1-yl)benzoic acid | 14.04 mmol, 3.2 g, 1.0 eq | NC1=C(C=NN1C=1C=C(C(=O)O)C=CC1)C#N | C11H8N4O2
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | diethyl ether | 15.44 mmol, 7.7 ml, 1.1 eq | C(C)OCC | C4H10O
reactant | trimethylsilyidiazomethane | 2.8 mmol, 1.54 ml, 0.2 eq | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | toluene methanol | C1(=CC=CC=C1)C.CO
product | 3-(5-Amino-4-cyanopyrazol-1-yl)benzoic acid methyl ester | 14.04 mmol, 3.4 g, 100% | COC(C1=CC(=CC=C1)N1N=CC(=C1N)C#N)=O | C12H10N4O2
